US05800799
A 0.238M solution of sodium fluoride NaF was previously prepared by dissolving 2.5 g of NaF in 250 mL of water. 0.84 mL of this solution was added in the TEOS solution, in order to obtain a molar ratio NaF/TEOS=2.56. Each solution was placed in a shaking bath (shaking speed: 40 rpm) thermostated at either 25° C. (Example 10), 35° C. (Example 11), 45° C. (Example 12), 55° C. (Example 13) or 65° C. (Example 14), for 48 hours). A white suspension appeared progressively. After 48 hours, the powder was separated from solution by centrifugation (5,000 rpm, 10 minutes), dried at 70° C., then calcined in air at 5° C. min-1 to 200° C. for 6 hours, then 600° C. for 6 hours.

reactant | NaF | 2.5 g | [F-].[Na+]
reactant | TEOS | CCO[Si](OCC)(OCC)OCC | C8H20O4Si
solvent | water | 250 mL | O | H2O
product | NaF TEOS | [F-].[Na+].CCO[Si](OCC)(OCC)OCC | InChI=1S/C8H20O4Si.FH.Na/c1-5-9-13(10-6-2,11-7-3)12-8-4;;/h5-8H2,1-4H3;1H;/q;;+1/p-1
